US07053117B2
2,7-Diamino-3-cyano-4-(5-methoxy-3-pyridyl)-4H-chromene
To a mixture of 5-methoxypyridine-3-carboxaldehyde (69.2 mg, 0.5 mmol) and malononitrile (34 mg, 0.5 mmol) in ethanol (2.5 mL) was added piperidine (0.1 mL, 1 mmol) and 3-aminophenol (60 mg, 0.55 mmol). The mixture was stirred for 2 h under argon at room temperature. The solvent was evaporated and the residue was purified by chromatography on silica gel with hexane: EtOAc (4:1˜1:1) as eluant, yielding 44 mg of (31%) the title compound. 1H NMR (CD3OD): 8.02 (s, 1H), 7.88 (s, 1H), 6.93 (s, 1H), 6.75 (s, 1H), 6.51 (d, J=8.4 Hz, 1H), 6.18 (d, J=8.4 Hz, 1H), 6.09 (s, 1H), 5.15 (br, 1H), 4.49 (s, 1H), 3.66 (s, 3H).

reactant | 5-methoxypyridine-3-carboxaldehyde | 0.5 mmol, 69.2 mg | COC=1C=C(C=NC1)C=O | C7H7NO2
reactant | malononitrile | 0.5 mmol, 34 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 1 mmol, 0.1 mL | N1CCCCC1 | C5H11N
reactant | 3-aminophenol | 0.55 mmol, 60 mg | NC=1C=C(C=CC1)O | C6H7NO
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 2,7-Diamino-3-cyano-4-(5-methoxy-3-pyridyl)-4H-chromene | 31% | NC=1OC2=CC(=CC=C2C(C1C#N)C=1C=NC=C(C1)OC)N | C16H14N4O2
